US08039466B2
4.i. (S)-2-(2,2-dimethyl-propionyloxymethyl)-4-oxo-pyrrolidine-1-carboxylic acid tert-butyl ester
A colourless solution of (2S,4R)-4-hydroxy-2-hydroxymethyl-pyrrolidine-1-carboxylic acid tert-butyl ester (660 g; J. Org. Chem. (2003), 68, 3923-3931) in DCM (6.6 l) was cooled down to 0° C. and treated with TEA (510 ml) and, dropwise, with pivaloyl chloride (378 ml). The reaction mixture was stirred for 24 h at rt. The reaction mixture was cooled to −8° C. and treated with DIPEA (1506 ml). A solution of sulfur trioxide pyridine complex (1036 g) in DMSO (4 l) was added dropwise over 90 min. The reaction mixture was stirred at 0° C. for 1 h and was quenched with the addition of water (41). The aq. layer was extracted with Et2O/Hex (1:1; 2×1 l) and the combined org. layers were concentrated in vacuo. The residue obtained after work up (Et2O/Hex 1:1) was crystallized from Hex (2 l) affording 675 g (74%) of a colourless powder.

reactant | (2S,4R)-4-hydroxy-2-hydroxymethyl-pyrrolidine-1-carboxylic acid tert-butyl ester | 660 g | C(C)(C)(C)OC(=O)N1[C@@H](C[C@H](C1)O)CO | C10H19NO4
reactant | pivaloyl chloride | 378 ml | C(C(C)(C)C)(=O)Cl | C5H9ClO
reactant | DIPEA | 1506 ml | CCN(C(C)C)C(C)C | C8H19N
solvent | DCM | 6.6 l | C(Cl)Cl | CH2Cl2
solvent | DMSO | 4 l | CS(=O)C | C2H6OS
product | (S)-2-(2,2-dimethyl-propionyloxymethyl)-4-oxo-pyrrolidine-1-carboxylic acid tert-butyl ester | 675 g, 74% | C(C)(C)(C)OC(=O)N1[C@@H](CC(C1)=O)COC(C(C)(C)C)=O | C15H25NO5
